US08609698B2
Ethyl (5-bromopyridin-3-yl)acetate
15 drops of concentrated sulfuric acid are added to 5.0 g (23.1 mmol) of (5-bromopyridin-3-yl)acetic acid in 30 ml of ethanol, and the mixture is heated under reflux for 16 h. After cooling to RT, the mixture is concentrated under reduced pressure and the residue is taken up in ethyl acetate and washed with semiconcentrated sodium bicarbonate solution. The organic phase is dried over sodium sulfate, filtered and concentrated under reduced pressure.

reactant | (5-bromopyridin-3-yl)acetic acid | 23.1 mmol, 5.0 g | BrC=1C=C(C=NC1)CC(=O)O | C7H6BrNO2
reactant | ethanol | 30 ml | C(C)O | C2H6O
catalyst | sulfuric acid | 15 drops | S(O)(O)(=O)=O | H2O4S
product | Ethyl (5-bromopyridin-3-yl)acetate | BrC=1C=C(C=NC1)CC(=O)OCC | C9H10BrNO2
